US09359345B2
(3-Chloro-phenylamino)-acetic acid methyl ester (4 g, 20.0 mmol) and sodium hydroxide (4.00 g, 100 mmol) were combined in ethanol (60.0 mL) and water (10 mL) to give a light yellow solution which was heated at 60° C. for 4 hours. The reaction mixture was cooled to ambient temperature, diluted with ethyl acetate and washed with 1M aqueous hydrochloric acid. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give (3-chloro-phenylamino)-acetic acid as a brown solid (3.20 g, 86%).

reactant | (3-Chloro-phenylamino)-acetic acid methyl ester | 20.0 mmol, 4 g | COC(CNC1=CC(=CC=C1)Cl)=O | C9H10ClNO2
reactant | sodium hydroxide | 100 mmol, 4.00 g | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | ethanol | 60.0 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-chloro-phenylamino)-acetic acid | 3.20 g, 86% | ClC=1C=C(C=CC1)NCC(=O)O | C8H8ClNO2
